US06458814B1
d) Ethyl (±)-4-(4-carboxy-1,3-oxazol-2-yl)-3-phenylbutanoate
A solution of ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazol-2-yl)-3-phenylbutanoate (267 mg, 0.84 mmole) and LiI (338 mg, 2.52 mmole) in pyridine (5 mL) was heated to reflux. After 18 hr, the mixture was cooled to RT, poured into 10% HCl (150 mL), then extracted with CH2Cl2 (3×50 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated to give the title compound (205 mg, 80%) as a white solid: MS (ES) m/e 304 (M+H)+.

reactant | ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazol-2-yl)-3-phenylbutanoate | 0.84 mmole, 267 mg | COC(=O)C=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C17H19NO5
reactant | LiI | 2.52 mmole, 338 mg | [Li+].[I-]
reactant | HCl | 150 mL | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl (±)-4-(4-carboxy-1,3-oxazol-2-yl)-3-phenylbutanoate | 205 mg, 80% | C(=O)(O)C=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C16H17NO5
